**Initial Design for Headphone Amplifier
**By Jeff Baatz and Sean Wang
**For ECE222 - APR2015
.include sedra_lib.lib
.include LME49600.lib
.include OPA134.lib
.include OPA2134.lib
.include njm4556a_3_hspice.lib

** Sources and Signal (one channel)
Vp nP ng dc=12
Vn nN ng dc=-12
Vsig nIn ng AC=.3

****Gain Stage****
* Filter (one channel, may need to AC couple)
RF1 nIn nF1 100
CF1 nF1 ng 220p
Rin nF1 ng 10k
*Op Amp goes here (OPA134, OPTA2134, or LME49600 can be swapped)
Xg1 OPA134  nF1 nfb Vp Vn nGainO
* Feedback network for op amp
* Results in 3X gain and 250kHz corner
Rfb1 nGainO nfb 2k
Cfb1 nGainO	nfb 220p
Rfbg1 nfb ng 1k

****Volume Stage****
* Need to implement a ~10k pot for volume
* For now this can just be two resistors @ 5k
Rpot1 nGainO nVol 5k
Rpot2 nVol ng 5k

****Output Stage****
* AC couple
Cac1 nac1 nVol 220p
* Current Driver goes here (Use NJM4556)
* Output of this stage will be the overall output
Xo1 NJM4556 OUT1 nCAp OUT1 nN nCBp OUT2 OUT2 nP
RcA OUTPUT OUT1 2
RcB OUTPUT OUT2 2





